US08232319B2
(2R,5S)-2-[2-chloro-4-(3-trifluoromethylphenoxy)phenyl]propyl-3,6-diethoxy-5-isopropyl-2-methyl-2,5-dihydropyrazine
Under an argon atmosphere, a solution of n-butyllithium in hexane (1.54 mol/L, 3.59 mL) was added at −78° C. into a solution of (5S)-3,6-diethoxy-5-isopropyl-2-methyl-2,5-dihydropyrazine (905 mg) in THF (16 mL), and the resultant solution was stirred at −78° C. for 30 minutes. Next, A solution of 2-chloro-1-(3-iodopropyl)-4-(3-trifluoromethylphenoxy)benzene (2.47 g) in THF (4 mL) was added to the reaction mixture, and the resultant solution was stirred at −78° C. for 30 minutes and then at 0° C. for 1 hour. Water was added to the reaction mixture, extracted with ethyl acetate, washed with water and saturated brine in that order, and then dried over anhydrous sodium sulfate. The solvent was evaporated, and the resultant residue was purified by silica gel column chromatography (hexane:ethyl acetate=60:1) to obtain the target product (1.59 g) as a colorless oil.

reactant | n-butyllithium | C(CCC)[Li]
reactant | (5S)-3,6-diethoxy-5-isopropyl-2-methyl-2,5-dihydropyrazine | 905 mg | C(C)OC=1C(N=C([C@@H](N1)C(C)C)OCC)C | C12H22N2O2
reactant | 2-chloro-1-(3-iodopropyl)-4-(3-trifluoromethylphenoxy)benzene | 2.47 g | ClC1=C(C=CC(=C1)OC1=CC(=CC=C1)C(F)(F)F)CCCI | C16H13ClF3IO
reactant | Water | O | H2O
solvent | hexane | 1.54 mol/L, 3.59 mL | CCCCCC | C6H14
solvent | THF | 16 mL | C1CCOC1 | C4H8O
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | (2R,5S)-2-[2-chloro-4-(3-trifluoromethylphenoxy)phenyl]propyl-3,6-diethoxy-5-isopropyl-2-methyl-2,5-dihydropyrazine | 1.59 g | ClC1=C(C=CC(=C1)OC1=CC(=CC=C1)C(F)(F)F)C(C[C@]1(N=C([C@@H](N=C1OCC)C(C)C)OCC)C)C | C28H34ClF3N2O3
